US08536179B2
Sodium acetate (6.14 g, 74.8 mmol), Pd/C (0.65 g, 1 mmol), and platinum (II) oxide (45 mg, 1 mmol) were placed in a dried Parr bottle equipped with nitrogen inlet. A small amount of acetic acid was added to wet the catalysts. A solution of 6-methyl-2-oxo-4-(phenylmethyl)-1,2-dihydro-3-pyridinecarbonitrile and 4-methyl-2-oxo-6-(phenylmethyl)-1,2-dihydro-3-pyridinecarbonitrile (6 g, 26.7 mmol) in acetic acid (300 mL) was added to the vessel. The contents were sealed and hydrogenated on Parr shaker at 45 psi for 12 h. The reaction mixture was filtered and washed with acetic acid. The filtrate was removed under reduced pressure. The residue was washed with methanol and filtered to afford a crude mixture of 3-(aminomethyl)-6-methyl-4-(phenylmethyl)-2(1H)-pyridinone and 3-(aminomethyl)-4-methyl-6-(phenylmethyl)-2(1H)-pyridinone. The reaction was run in duplicate to afford a total crude recovery of 14.5 g. To a solution of the above crude product mixture (4.0 g, 17.5 mmol) in THF (10 mL) and DMF (10 mL) was added di-tert-butoxycarbonyl anhydride (5.0 g, 23.4 mmol.) and triethylamine (5.2 g, 52.5 mmol) at 0° C. The reaction mixture was stirred with warming to room temperature and then stirred for an additional 4 h. The contents were diluted with ice water and then filtered. The collected solid was dried and the products separated by HPLC to furnish 1.2 g of 1,1-dimethylethyl {[4-methyl-2-oxo-6-(phenylmethyl)-1,2-dihydro-3-pyridinyl]methyl}carbamate (1H NMR (400 MHz, DMSO-d6) δ 11.55-1.60 (br s, 1H), 7.20-7.29 (m, 5H), 5.85 (s, 1H), 3.92 (s, 2H), 3.90 (s, 2H), 2.10 (s, 3H), 1.32 (s, 9H) and 1.0 g of 1,1-dimethylethyl {[6-methyl-2-oxo-4-(phenylmethyl)-1,2-dihydro-3-pyridinyl]methyl}carbamate (1H NMR (400 MHz, DMSO-d6) δ 11.50-11.55 (br s, 1H), 7.18-7.25 (m, 5H), 5.75 (s, 1H), 4.02 (s, 2H), 3.85 (s, 2H), 2.05 (s, 3H), 1.32 (s, 9H).

reactant | Sodium acetate | 74.8 mmol, 6.14 g | C(C)(=O)[O-].[Na+]
reactant | 6-methyl-2-oxo-4-(phenylmethyl)-1,2-dihydro-3-pyridinecarbonitrile | CC1=CC(=C(C(N1)=O)C#N)CC1=CC=CC=C1 | C14H12N2O
reactant | 4-methyl-2-oxo-6-(phenylmethyl)-1,2-dihydro-3-pyridinecarbonitrile | 26.7 mmol, 6 g | CC1=C(C(NC(=C1)CC1=CC=CC=C1)=O)C#N | C14H12N2O
reactant | 3-(aminomethyl)-6-methyl-4-(phenylmethyl)-2(1H)-pyridinone | NCC=1C(NC(=CC1CC1=CC=CC=C1)C)=O | C14H16N2O
reactant | 3-(aminomethyl)-4-methyl-6-(phenylmethyl)-2(1H)-pyridinone | NCC=1C(NC(=CC1C)CC1=CC=CC=C1)=O | C14H16N2O
reactant | triethylamine | 52.5 mmol, 5.2 g | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 1 mmol, 0.65 g | [Pd] | Pd
catalyst | platinum (II) oxide | 1 mmol, 45 mg | [Pt]=O
product | 1,1-dimethylethyl {[4-methyl-2-oxo-6-(phenylmethyl)-1,2-dihydro-3-pyridinyl]methyl}carbamate | 1.2 g | CC1=C(C(NC(=C1)CC1=CC=CC=C1)=O)CNC(OC(C)(C)C)=O | C19H24N2O3
